US05484942
2.89 g of ditert-butyl dicarbonate are added in fractions of 0.5 g to a suspension of 4.0 g of (4aRS,7aRS)-4,4-diphenylperhydrothiopyrano[2,3-c]pyrrole hydrochloride and 1.70 cm3 of triethylamine in 60 cm3 of dry dichloromethane, followed by 0.15 g of 4-dimethylaminopyridine. The mixture is stirred for 20 hours at 20° C. and then the reaction solution is washed twice with 100 cm3 of an aqueous solution of citric acid of pH 4 and with 100 cm3 of water, dried over magnesium sulphate and concentrated to dryness at 35° C. under reduced pressure (2.7 kPa). The residue is crystallized from ethyl ether, the crystals are drained and dried. 4.27 g of (4aRS,7aRS)-4,4-diphenyl-6-tert-butyloxycarbonylperhydrothiopyrano[2,3-c]pyrrole are obtained in the form of pink crystals; melting point 162° C.

reactant | ditert-butyl dicarbonate | 2.89 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | (4aRS,7aRS)-4,4-diphenylperhydrothiopyrano[2,3-c]pyrrole hydrochloride | 4.0 g | Cl.C1(=CC=CC=C1)C1(CCSC2CNCC21)C2=CC=CC=C2
reactant | triethylamine | 1.70 cm3 | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 60 cm3 | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.15 g | CN(C1=CC=NC=C1)C | C7H10N2
product | (4aRS,7aRS)-4,4-diphenyl-6-tert-butyloxycarbonylperhydrothiopyrano[2,3-c]pyrrole | 4.27 g | C1(=CC=CC=C1)C1(CCSC2CN(CC21)C(=O)OC(C)(C)C)C2=CC=CC=C2 | C24H29NO2S
